US09126998B2
rac-N-(2-Amino-2,4-dimethylpentyl)-6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide
61 mg (0.47 mmol) of rac-2,4-dimethylpentane-1,2-diamine were added to 150 mg (0.43 mmol) of 6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid Example 16A, 143 mg (0.45 mmol) of TBTU and 0.19 ml (1.70 mmol) of 4-methylmorpholine in DMF (1.5 ml), and the reaction mixture was stirred at RT overnight. The mixture was diluted with water/TFA and purified by prep. RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fraction was concentrated. Saturated aqueous sodium bicarbonate solution was added to the residue, and the mixture was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered off and concentrated. This gave 162 mg (79% of theory, purity 96%) of the target compound.

reactant | rac-2,4-dimethylpentane-1,2-diamine | 0.47 mmol, 61 mg | CC(CN)(CC(C)C)N | C7H18N2
reactant | 6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.43 mmol, 150 mg | ClC=1C=C(C=2N(C1)C(=C(N2)C)C(=O)O)OCC2=C(C=CC=C2F)F | C16H11ClF2N2O3
reactant | TBTU | 0.45 mmol, 143 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 1.70 mmol, 0.19 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-2,4-dimethylpentyl)-6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)Cl)C)(CC(C)C)C | C23H27ClF2N4O2
